US04224325
Preparation of 3-chloro-6-(3-methyl-5-amino-1-pyrazolyl)-pyridazine
A mixture of 14.5 g (0.1 moles) of 3-chloro-6-pyridazinyl-hydrazine, 8.5 g (0.1 moles) of 3-iminobutyronitrile and 150 ml of ethanol is heated to reflux for 9 hours. After cooling the separated crystals are filtered, washed with ethanol and dried. Yield: 15.6 g (74.0%); m.p.: 148°-150° C. The hydrochloride melts at 157°-159° C.

reactant | 3-chloro-6-pyridazinyl-hydrazine | 0.1 moles, 14.5 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | 3-iminobutyronitrile | 0.1 moles, 8.5 g | N=C(CC#N)C | C4H6N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-chloro-6-(3-methyl-5-amino-1-pyrazolyl)-pyridazine | ClC=1N=NC(=CC1)N1N=C(C=C1N)C | C8H8ClN5
